US06114530
A. 2-(2,4,6-Trimethylbenzoyl)-benzoic acid
Aluminum chloride (60 g, 0.45 mol) was added in portions to a solution of phthalic anhydride (30 g, 0.20 mol) and mesitylene (40 mL) in 150 mL of 1,2-dichloroethane at 0° C. the reaction mixture was stirred at room temperature for 2 hours, then poured into ice-water. The mixture was acidified with 37% hydrochloric acid and extracted with ether. The ether extract was washed with 1 N hydrochloric acid, water, dried and concentrated to give 59 g of the title compound as white solids which was used in the next reaction without further purification.

reactant | Aluminum chloride | 0.45 mol, 60 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | phthalic anhydride | 0.20 mol, 30 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | mesitylene | 40 mL | C1(=CC(=CC(=C1)C)C)C | C9H12
reactant | hydrochloric acid | Cl | ClH
solvent | 1,2-dichloroethane | 150 mL | ClCCCl | C2H4Cl2
product | 2-(2,4,6-Trimethylbenzoyl)-benzoic acid | 59 g | CC1=C(C(=O)C2=C(C(=O)O)C=CC=C2)C(=CC(=C1)C)C | C17H16O3
